* C:\Users\Bruger\Desktop\DUTTEN\fagprojekt\Power converter\LT8316 Flyback 2.asc
Vin1 IN 0 230
L1 IN N007 810µ Rser=0.5
L2 0 N001 2.5µ Rser=0.03 Cpar=0.5p
D1 N001 OUT BAS21VM
Rsense1 N015 0 62m
Rload1 OUT 0 2.31
C2 N006 N003 47p Rser=10K
R1 N008 N010 42.2k
RFB2 N003 N008 62.7k
RFB1 N008 0 4.99K
D2 N007 N004 RFN1L7S
L3 0 N003 22.5µ Rser=0.6
C3 N009 0 4.7µ
C4 IN N007 90p Rser=25
C6 N013 0 330n Rser=10K
R4 N016 0 68.1k
M1 N007 N012 N015 N015 STW11NM80
C7 N002 0 4.7µ
XU1 IN MP_01 MP_02 MP_03 MP_04 MP_05 MP_06 N009 N002 N006 N010 N008 N013 N016 0 0 N005 N014 N011 LT8316
D3 N003 P001 BAS21VM
D4 IN N004 1N5378B N=2
C5 OUT 0 100µ
C1 OUT 0 1m
R2 P001 N002 100
R3 N012 N011 10
R5 N015 N014 100
C8 N014 0 1n
R6 N005 0 6.98k
R7 IN N005 729k
C9 IN 0 1m
.model D D
.lib C:\Users\Bruger\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Bruger\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L3 0.993
.tran 0 160m 140m startup
* 18:1:3
* Input from full bridge rectifier
* Baseret på datablad figur 6
* 75% effektivitet iflg. LTSpice, 91% ifølge ref. design
.lib LT8316.sub
.backanno
.end
